US04529726
3-(Phenylacetyl)-2-nitromethylene-tetrahydro-2H-1,3-thiazine
To a solution of phenylacetyl chloride (4.8 g) in dry dichloromethane (30 ml) at -20° C. was added triethylamine (5.2 ml) over a period of 20 minutes, followed by 2-(nitromethylene)-tetrahydro-2H-1,3-thiazine (3.2 g) in dry dichloromethane (30 ml) over a period of 20 minutes. The reaction mixture was allowed to warm to ambient temperature with stirring over a period of 30 minutes and was then worked up in a similar manner to that described in Example 1 to yield the required product as a white crystalline solid m.p. 121°-122° C.

reactant | phenylacetyl chloride | 4.8 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | triethylamine | 5.2 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(nitromethylene)-tetrahydro-2H-1,3-thiazine | 3.2 g | [N+](=O)([O-])C=C1SCCCN1 | C5H8N2O2S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-(Phenylacetyl)-2-nitromethylene-tetrahydro-2H-1,3-thiazine | C1(=CC=CC=C1)CC(=O)N1C(SCCC1)=C[N+](=O)[O-] | C13H14N2O3S
